US07683070B2
Step A Synthesis of (4-(2-pyridyloxy)phenyl)methanol as an Intermediate
A stirred solution of 15.3 grams (0.077 mole) of (4-(2-pyridyloxy)phenyl)formaldehyde (a known compound) in 150 mL of methanol was cooled to 0-5° C., and 3.2 grams (0.085 mole) of sodium borohydride was added portion wise. Upon completion of addition, the reaction mixture was allowed to warm to ambient temperature where it stirred for 30 minutes. After this time, the reaction mixture was cooled to 5° C. and 150 mL of water was carefully added to destroy excess sodium borohydride. The mixture was cooled to 0° C. and neutralized with concentrated hydrochloric acid. Excess acid was added causing the mixture to be acidic. The mixture was brought to neutrality by the addition of solid sodium bicarbonate. The mixture was concentrated under reduced pressure to remove some of the methanol. The concentrate was taken up in ethyl acetate and washed with an aqueous solution saturated with sodium chloride. The organic layer was dried with sodium sulfate, filtered, and concentrated under reduced pressure, yielding 12.6 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | (4-(2-pyridyloxy)phenyl)formaldehyde | 0.077 mole, 15.3 grams | N1=C(C=CC=C1)OC1=CC=C(C=C1)C=O | C12H9NO2
reactant | sodium borohydride | 0.085 mole, 3.2 grams | [BH4-].[Na+]
reactant | water | 150 mL | O | H2O
solvent | methanol | 150 mL | CO | CH4O
product | (4-(2-pyridyloxy)phenyl)methanol | 12.6 grams | N1=C(C=CC=C1)OC1=CC=C(C=C1)CO | C12H11NO2
